US04261999
A suspension of (RS)-5-hydroxymethyl-6-[(isoquinol-5-yl)thiocarbamoyl]-4,5,6,7-tetrahydrothieno[2,3-c]pyridine (21 g) in 6 N hydrochloric acid (220 cc) is heated under reflux for 1.5 hours. The resulting brown solution is cooled, decolorised with animal charcoal and filtered. The filtrate is rendered alkaline to pH 11 with a 15% aqueous solution of potassium carbonate and extracted with methylene chloride (300 cc and then 3×200 cc). The organic extracts are combined and dried over sodium sulphate. After filtering and concentrating the filtrate to dryness under reduced pressure (25 mm Hg; 3.3 kPa) at 40° C., a pale yellow solid is obtained. This solid is dissolved in boiling isopropanol (800 cc); the resulting solution is cooled to +5° C. and kept at that temperature for 20 hours. The solid formed is filtered off and taken up in boiling isopropanol (500 cc); the resulting solution is cooled to +5° C. and kept at that temperature for 20 hours. The solid formed is filtered off, washed with diisopropyl ether (2×50 cc) and dried at 60° C. under reduced pressure (0.1 mm Hg; 0.013 kPa). (RS)-7-[(Isoquinol-5-yl)imino]-4,4a,5,9-tetrahydrothiazolo[3,4-a]thieno[3,2-d]pyridine (13.9 g) is thus obtained in the form of pale yellow crystals melting at 171° C.

reactant | (RS)-5-hydroxymethyl-6-[(isoquinol-5-yl)thiocarbamoyl]-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 21 g | OCC1CC2=C(CN1C(NC1=C3C=CN=CC3=CC=C1)=S)SC=C2 | C18H17N3OS2
reactant | charcoal | C | CH4
reactant | isopropanol | 800 cc | C(C)(C)O | C3H8O
solvent | hydrochloric acid | 6 N, 220 cc | Cl | ClH
product | (RS)-7-[(Isoquinol-5-yl)imino]-4,4a,5,9-tetrahydrothiazolo[3,4-a]thieno[3,2-d]pyridine | 13.9 g | C1=NC=CC2=C(C=CC=C12)N=C1SCC2N1CC1=C(C2)C=CS1 | C18H15N3S2
